US06265381B1
a) Preparation of (4-Morpholinyl)acetic Acid, 1,1-Dimethylethyl Ester
To a stirred solution of tert-butyl bromoacetate (1.61 mL, 10.0 mmol) in THF (25 mL) was added morpholine (1.74 mL, 20.0 mmol); the resultant suspension was stirred for 1.5 h and then concentrated. The residue was dissolved in CH2Cl2 (50 mL)/saturated Na2CO3 (75 mL), the layers were separated, and the aqueous layer was extracted with additional CH2Cl2 (2×25 mL). The combined organics were washed with saturated Na2CO3 (20 mL) and brine (30 mL), dried and concentrated to give crude title compound. Tituration with EtOAc (15 mL), filtration, and concentration of the filtrate gave the title compound (2.01 g, 100%) as a colorless oil. TLC: Rf 0.45 (EtOAc). 1H NMR: δ3.79-3.73 (m, 4H, CH2OCH2), 3.11 (s, 2H, CH2), 2.61-2.55 (m, 4H, CH2NCH2), 1.46 (s, 9H, t-Bu). MS (DCI/CH4): m/z (rel intensity) 202 (MH+, 15), 201 (8), 200 (13), 174 (20), 146 (100), 100 (23). HRMS (C10H19NO3) (MH+): calcd, 201.1365; obsd, 201.1371.

reactant | tert-butyl bromoacetate | 10.0 mmol, 1.61 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | morpholine | 20.0 mmol, 1.74 mL | N1CCOCC1 | C4H9NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (4-Morpholinyl)acetic Acid, 1,1-Dimethylethyl Ester | 2.01 g, 100% | N1(CCOCC1)CC(=O)OC(C)(C)C | C10H19NO3
